US04816452
a. 2-(4-Methylcyclohexyl)propan-2-ol
α-Terpineol (6.17 g) in ethanol (130 ml) was hydrogenated for 1 h at atmospheric pressure using 10% Pd-C catalyst (290 mg). The catalyst was then removed by filtration through Kieselguhr and the solvent was removed under reduced pressure to leave the title compound as an oil (5.93 g). Distillation gave an oil (4.56 g) b.p. (13 mm) 98°; νmax (film) 3375, 2940, 1445, 1160, 1140, and 910 cm-1 ; δH (60 MHz, CDCl3) 0.6-2.0(m).

reactant | α-Terpineol | 6.17 g | CC1=CC[C@H](CC1)C(C)(C)O | C10H18O
solvent | ethanol | 130 ml | C(C)O | C2H6O
catalyst | Pd-C | 290 mg | [Pd] | Pd
product | 2-(4-Methylcyclohexyl)propan-2-ol | 5.93 g | CC1CCC(CC1)C(C)(C)O | C10H20O
